US08076514B2
[(R)-3-(2-tert-Butylcarbamoyl-5-methyl-phenyl)-2-oxo-1-(2,4,5-trifluoro-benzyl)-propyl]-carbamic acid tert-butyl ester
Using general procedure 2 with [(R)-1-(methoxy-methyl-carbamoyl)-2-(2,4,5-trifluoro-phenyl)-ethyl]-carbamic acid tert-butyl ester (1.4 g, 4.1 mmol) and N-tert-Butyl-2,4-dimethyl-benzamide (2.5 g, 12 mmol) followed by purification by silica gel flash column chromatography gives the title compound.

reactant | [(R)-1-(methoxy-methyl-carbamoyl)-2-(2,4,5-trifluoro-phenyl)-ethyl]-carbamic acid tert-butyl ester | 4.1 mmol, 1.4 g | C(C)(C)(C)OC(N[C@H](CC1=C(C=C(C(=C1)F)F)F)C(N(C)OC)=O)=O | C16H21F3N2O4
reactant | N-tert-Butyl-2,4-dimethyl-benzamide | 12 mmol, 2.5 g | C(C)(C)(C)NC(C1=C(C=C(C=C1)C)C)=O | C13H19NO
product | [(R)-3-(2-tert-Butylcarbamoyl-5-methyl-phenyl)-2-oxo-1-(2,4,5-trifluoro-benzyl)-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](C(CC1=C(C=CC(=C1)C)C(NC(C)(C)C)=O)=O)CC1=C(C=C(C(=C1)F)F)F)=O | C27H33F3N2O4
